US04876359
Dissolved in 100 ml of methanol was 3.75 g of Isomer BCD of N-(2-oxo-5-octyl-3-tetrahydrofuranyl)-L-alanine benzyl ester. Thereafer, 0.70 g of 10% palladium-charcoal was added and the reaction mixture was hydrogenated at room temperature and normal pressure for 2 hours. The palladium-charcoal was then filtered off and the filtrate was distilled under reduced pressure to obtain crystals. The crystals were recrystallized from methanol, thereby obtaining 2.41 g of Isomer BCD of N-(2-oxo-5-octyl-3-tetrahydrofuranyl)-L-alanine as colorless crystals.

reactant | N-(2-oxo-5-octyl-3-tetrahydrofuranyl)-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC1C(OC(C1)CCCCCCCC)=O)C)=O | C22H33NO4
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-charcoal | 0.70 g | [Pd] | Pd
product | N-(2-oxo-5-octyl-3-tetrahydrofuranyl)-L-alanine | O=C1OC(CC1N[C@@H](C)C(=O)O)CCCCCCCC | C15H27NO4
